US04219551
In accordance with the process set forth in Example 1, 10 mmol of 4-[3-(1-methyl-2,3-epoxypropoxy)-4-methoxyphenyl]-2-pyrrolidone and 10 mmol of 1-phenylpiperazine (95% strength) produce, in a 68% yield, 4-{4-methoxy-3-[3-(4-phenylpiperazin-1-yl)1-methyl-2-hydroxypropoxy]phenyl}-2-pyrrolidone, m.p. 116°-118° (ethanol).

reactant | 4-[3-(1-methyl-2,3-epoxypropoxy)-4-methoxyphenyl]-2-pyrrolidone | 10 mmol | CC(C1CO1)OC=1C=C(C=CC1OC)C1CC(NC1)=O | C15H19NO4
reactant | 1-phenylpiperazine | 10 mmol | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | ethanol | C(C)O | C2H6O
product | 4-{4-methoxy-3-[3-(4-phenylpiperazin-1-yl)1-methyl-2-hydroxypropoxy]phenyl}-2-pyrrolidone | 68% yield | COC1=C(C=C(C=C1)C1CC(NC1)=O)OC(C(CN1CCN(CC1)C1=CC=CC=C1)O)C | C25H33N3O4
